US03996209
Paraformaldehyde (200 g., 91% flake) is placed in a stirred reactor equipped with a reflux condenser, decanter, and ammonia addition tube. Methanol (575 mls.) is added and then gaseous ammonia below the surface of the reaction mixture. 2-Chloroacetamido-benzophenone (273.7 g.) is then added. With a slow, continuous flow of ammonia to the reaction zone, the mixture is heated at reflux for 5 hours. The crystal slurry obtained is distilled to recover the methanol. Toluene (1350 mls.) is now added to the crystal residue and residual water is removed by azeotropic distillation through the decanter. When dry, the hot toluene solution is filtered, the filtrate is cooled for crystallization, and the product obtained isolated to give 1,3-dihydro-5-phenyl-2H-1,4-benzodiazepin-2-one (200 g., 84.7%) m.p. 180°-181° C. (uncorr.).

reactant | Paraformaldehyde | 200 g | C=O | CH2O
reactant | ammonia | N | H3N
reactant | 2-Chloroacetamido-benzophenone | 273.7 g | ClCC(=O)NC1=C(C(=O)C2=CC=CC=C2)C=CC=C1 | C15H12ClNO2
solvent | Methanol | 575 mls | CO | CH4O
product | 1,3-dihydro-5-phenyl-2H-1,4-benzodiazepin-2-one | 200 g, 84.7% | C1(=CC=CC=C1)C1=NCC(NC2=C1C=CC=C2)=O | C15H12N2O
